2190-03-21 07:27:00 Physician Resident Progress Note
24 Hour Events:
   Pt. remained intubated.  He was diuresed, but remained hypotensive.
   Started on levophed and propofol was weaned down.  EKG showed first
   degree block.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2190-3-20**] 03:14 PM
   Vancomycin - [**2190-3-20**] 08:07 PM
   Meropenem - [**2190-3-21**] 04:07 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2190-3-20**] 07:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-3-21**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 78 (75 - 100) bpm
   BP: 112/62(73) {72/46(51) - 126/76(85)} mmHg
   RR: 11 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,351 mL
                                                                    573 mL
   PO:
             TF:
   IVF:
                                                                    601 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                    236 mL
                                                                    190 mL
   Urine:
                                                                    236 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,115 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 411 (411 - 411) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.41/31/155/20/-3
   Ve: 8.8 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General: Sedated, intubated, minimal grimace to sternal rub
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not assessible, no LAD
   Lungs: rhonchorous, good airmovement
   CV: RRR. Nl S1 and S2.
   Abdomen:  soft, ABS. slightly distended from edema. nontender. tube in
   place.
   GU: foley in place. brown urine in foley bag.
   Ext: 2+ LE edema to knees
   Labs / Radiology
   255 K/uL
   8.4 g/dL
   92 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.3 mEq/L
   61 mg/dL
   120 mEq/L
   149 mEq/L
   26.5 %
   11.4 K/uL
        [image002.jpg]
                             [**2190-3-20**]  11:48 AM
                             [**2190-3-20**]  02:28 PM
                             [**2190-3-20**]  05:30 PM
                             [**2190-3-20**]  08:56 PM
                             [**2190-3-20**]  10:15 PM
                             [**2190-3-20**]  10:41 PM
                             [**2190-3-21**]  02:28 AM
   WBC
   11.4
   Hct
   26.1
   24.3
   26.5
   Plt
   255
   Cr
   1.4
   1.4
   TropT
   1.38
   1.39
   TCO2
   24
   22
   18
   20
   Glucose
   135
   92
   Other labs: PT / PTT / INR:22.2/41.7/2.1, CK / CKMB /
   Troponin-T:148/21/1.39, Differential-Neuts:84.3 %, Lymph:10.4 %,
   Mono:3.5 %, Eos:1.7 %, Lactic Acid:1.7 mmol/L, Ca++:7.9 mg/dL, Mg++:2.0
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   78 y/o M with multiple medical problems including healthcare associated
   pneumonia, chronic aspiration, afib on coumadin, CVAs, and CAD who
   presents with hypoxia, consistent with pulmonary edema.
   .
   # Acute hypercarbic respiratory failure: CXR with increased volume and
   patient did not improve with Bipap in the ED. Now intubated with
   improved ventilation on ABG. BNP greater than assay is markedly
   consistent with CHF. Put out well in the ED. Anticoagulated, so PE
   seems less likely. Mucous plugging seems like a likely component as
   well. Already on HAP treatment, and schedule to complete course
   tommorow. Worsening leukocytosis and fever concerning for possible
   resistant organism.
   - Continue Ventilation now, but reduce set rate given worsening
   alkalosis over
   - Continuing [**Last Name (un) 350**]/Vanco/Flagyl
   - Repeat TTE
   - consider additional diuresis this afternoon as BP allows
   - repeat CXR in AM
   - Change sedation to propafol for hopeful extubation in AM
   .
   # Pneumonia: Initially the pt was on vanc/pip-tazo for HCAP on
   admission on [**3-11**]. Piperacillin-tazobactam was changed to cefepime on
   [**3-13**]. Metronidazole was added on [**3-13**] due to persistent fevers.
   - broaden as above
   - follow cultures
   - repeat sputum
   .
   # Hypernatremia: [**Month (only) 8**] be do to poor po intake, but patient total body
   overloaded. 2.5 L deficit at this time. Do not want to fluid bolus
   given CHF as above. Na 149 this AM.
   - FW flushes through tube 250cc x4
   -
   .
   # NSTEMI: Troponin elevated but flat CK, could be consistent with
   resolving infarct on last admission. EKG with signs of demand in
   lateral leads.  Troponin still trending up
   - cycle enzymes to peak
   - asa 325 mg daily
   - high dose statin
   - Betablocker with holding parameters
   - hold ace-i in setting of acute CHF
   .
   # Afib: Sinus tachycardia has resolved,  was previously in Afib in ED.
   Pt has been on anticoagulation for afib with stable hct for the past
   few days.
   - Continue coumadin
   - Rate control as above
   - Repeat EKG in AM
   .
   # Anemia: 5 point Hct drop in the setting of diuresis is concerning.
   Mild tachycardia, but patient is betablocked at baseline.
   - guaiac stools
   - continue PPI
   - T and S
   - Maintain 2 PIVs
   .
   # Dm: ISS
   .
   # Dementia: Continue mirtazapine
   .
   # FEN: No IVF, replete electrolytes, NPO for now
   # Prophylaxis: On coumadin, PPI
   # Access: peripherals
   # Communication: has two daughters and son; [**Doctor Last Name **] is HCP, work
   no: [**Telephone/Fax (1) 12228**]. Email: [**Company 12171**]. [**Doctor First Name 792**], daughter
   [**Telephone/Fax (1) 12035**].
   # Code:  Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2190-3-20**] 01:45 PM
   18 Gauge - [**2190-3-20**] 01:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-03-21 10:59:00 Physician Resident Progress Note
24 Hour Events:
   Pt. remained intubated.  He was diuresed, but remained hypotensive.
   Started on levophed and propofol was weaned down.  EKG showed first
   degree block.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2190-3-20**] 03:14 PM
   Vancomycin - [**2190-3-20**] 08:07 PM
   Meropenem - [**2190-3-21**] 04:07 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2190-3-20**] 07:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-3-21**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 78 (75 - 100) bpm
   BP: 112/62(73) {72/46(51) - 126/76(85)} mmHg
   RR: 11 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,351 mL
                                                                    573 mL
   PO:
             TF:
   IVF:
                                                                    601 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                    236 mL
                                                                    190 mL
   Urine:
                                                                    236 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,115 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 411 (411 - 411) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.41/31/155/20/-3
   Ve: 8.8 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General: Sedated, intubated, opens eyes and grimaces to sternal rub
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not assessible, no LAD
   Lungs: clear anteriorly, good airmovement
   CV: RRR. Nl S1 and S2.
   Abdomen:  soft, ABS. slightly distended from edema. nontender. tube in
   place.
   GU: foley in place. brown urine in foley bag.
   Ext: 2+ LE edema to knees
   Labs / Radiology
   255 K/uL
   8.4 g/dL
   92 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.3 mEq/L
   61 mg/dL
   120 mEq/L
   149 mEq/L
   26.5 %
   11.4 K/uL
        [image002.jpg]
                             [**2190-3-20**]  11:48 AM
                             [**2190-3-20**]  02:28 PM
                             [**2190-3-20**]  05:30 PM
                             [**2190-3-20**]  08:56 PM
                             [**2190-3-20**]  10:15 PM
                             [**2190-3-20**]  10:41 PM
                             [**2190-3-21**]  02:28 AM
   WBC
   11.4
   Hct
   26.1
   24.3
   26.5
   Plt
   255
   Cr
   1.4
   1.4
   TropT
   1.38
   1.39
   TCO2
   24
   22
   18
   20
   Glucose
   135
   92
   Other labs: PT / PTT / INR:22.2/41.7/2.1, CK / CKMB /
   Troponin-T:148/21/1.39, Differential-Neuts:84.3 %, Lymph:10.4 %,
   Mono:3.5 %, Eos:1.7 %, Lactic Acid:1.7 mmol/L, Ca++:7.9 mg/dL, Mg++:2.0
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   78 y/o M with multiple medical problems including healthcare associated
   pneumonia, chronic aspiration, afib on coumadin, CVAs, and CAD who
   presents with hypoxia, consistent with pulmonary edema.
   # Acute hypercarbic respiratory failure: CXR with increased volume and
   patient did not improve with Bipap in the ED. Now intubated with
   improved ventilation on ABG. BNP greater than assay is markedly
   consistent with CHF. Put out well in the ED. Anticoagulated, so PE
   seems less likely. Mucous plugging seems like a likely component as
   well. Already on HAP treatment, and schedule to complete course today.
   Worsening leukocytosis and fever concerning for possible resistant
   organism.
   - Continue Ventilation now and talk with family about possible
   extubation (family meeting scheduled for Tuesday)
   - Pressure support trial on 0/0
   - Continuing [**Last Name (un) 350**]/Vanco/Flagyl
 would have DC
d today, but will keep
   him on these for now
   - Repeat TTE
   # Hypotension:  pt. hypotensive with diuresis overnight, started on
   levophed overnight
   - consider CVL
   - decrease PEEP
   - attempt to wean pressor
   # Pneumonia: Initially the pt was on vanc/pip-tazo for HCAP on
   admission on [**3-11**]. Piperacillin-tazobactam was changed to cefepime on
   [**3-13**]. Metronidazole was added on [**3-13**] due to persistent fevers.
   - broaden as above
   - follow cultures
   - repeat sputum
   # Hypernatremia: [**Month (only) 8**] be do to poor po intake, but patient total body
   overloaded. 2.5 L deficit at this time. Do not want to fluid bolus
   given CHF as above. Na 149 this AM.  FWD about 2L
   - Continue FW flushes through tube 250cc x4
   # NSTEMI: Troponin elevated but flat CK, could be consistent with
   resolving infarct on last admission. EKG with signs of demand in
   lateral leads.  Troponin still trending up
   - cycle enzymes to peak
   - asa 325 mg daily
   - high dose statin
   - Betablocker with holding parameters
   - hold ace-i in setting of acute CHF
   # Afib: Sinus tachycardia has resolved, was previously in Afib in ED.
   Pt has been on anticoagulation for afib but Hct trending down.
   - Hold Coumadin today in setting of ?bleed
   - Rate control as above
   - Repeat EKG in AM
   # Anemia: 5 point Hct drop in the setting of diuresis is concerning.
   Mild tachycardia, but patient is betablocked at baseline.
   - guaiac stools
   - continue PPI
   - T and S , transfuse 2 units PRBCs with lasix
   - Maintain 2 PIVs , PICC
   # Dm: ISS
   # Dementia: Continue mirtazapine
   # FEN: Gentle D5  IVF, replete electrolytes, NPO for now
   # Prophylaxis: hold coumadin, PPI
   # Access: peripheral
   PICC Line - [**2190-3-20**] 01:45 PM
   18 Gauge - [**2190-3-20**] 01:45 PM
   # Communication: has two daughters and son; [**Doctor Last Name **] is HCP, work
   no: [**Telephone/Fax (1) 12228**]. Email: [**Company 12171**]. [**Doctor First Name 792**], daughter
   [**Telephone/Fax (1) 12035**].
   # Code:  Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Events: Hypotensive, propofol d/c
d and started on levophed.  PICC team
   informed of ?malposition of line on CXR, per their records, line has
   not moved and ? of whether tip is lost in mediastinal shadow.  Given
   lasix but I/O positive.
   Tm99.8, P70-100s  112/60, RR 11-20.
   PSV 10/5/40% TV 500
   I/O: +1.5L
   Exam this AM: intubated, NAD.  Grimaces, withdraws to pain.  RRR S1
   S2.  Coarse BS B/L.  Abd soft +BS.  1+ LE edema.
   WBC 20.3 -> 11.4, Hct 32 -> 26, Plt 255, INR 2.1
   Chem-7: Na 149, K 3.3, HCO3 20, BUN69/Cr1.4
   Trop: 1.39 <- 1.2 but prior to that 1.8
   CXR: ?improved b/l infiltrates, b/l effusions
   Meds include: Vanc, meropenem, RISS, coumadin, MVI, Vit D, flagyl PO,
   levophed, simvastatin, free H2O bolus.
   78 y/o man with multiple medical problems including [**Name2 (NI) **], chronic
   aspiration, EF 40%, CVA, CAD, DM, Afib on coumdin admitted from [**Hospital 12226**] after recent d/c from [**Hospital1 5**] ([**3-19**]) admitted with recurrent
   hypoxemic respiratory failure, CHF (BNP of >70K) vs aspiration (h/o
   same, WBC 20).
   While doing better from resp status unclear how well underlying CHF has
   been treated, remains an aspiration risk, and would want to clarify
   code status as discussion re: DNR/DNI is pending.  Will continue
   treatment for HAP.
   Hypotensive in setting of Hct trending down
 transfuse, guaiac stool,
   Vit K, d/c coumadin and give FFP; will give CT abd if continues as
   bleed of unclear origin at prior admission.  Ddx for hypotension
   includes sepsis, cardiogenic; latter seems less likely given overall
   trend down in Trop, but will follow.
   Access an issue
 apparently required fem line in past; PICC is new
   from [**3-19**], though may be in great vessel and not SVC.  Will defer for
   now given risk / benefit unless pressor requirement persistent.
   Remainder of plan as above, pt is critically ill.
   CC time 40 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 244**], MD
   on:[**2190-3-21**] 16:08 ------

2190-03-22 07:00:00 Physician Resident Progress Note
TITLE: MICU Progress Note
   Chief Complaint:
   24 Hour Events:
   Pt remained intubated. Spoke w/ son who says that goal is for family
   meeting on Tuesday at [**Hospital3 **] where family will discuss goals of
   care with [**Hospital3 **] staff. Indicated that they may move towards do
   not hospitalize, CMO. Did well on SBT but remained intubated through
   the day for concern of need for re-intubation. Transfused 1 unit PRBCs.
   INR reversed w/ Vitamin K. Hct stable throughout the day. CT scan abd
   obtained for concern of RP bleed, did not show evidence of RP bleed,
   but did show anasarca, pleural effusions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2190-3-20**] 03:14 PM
   Metronidazole - [**2190-3-21**] 04:06 PM
   Vancomycin - [**2190-3-21**] 08:00 PM
   Meropenem - [**2190-3-22**] 04:05 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-3-21**] 08:07 AM
   Furosemide (Lasix) - [**2190-3-22**] 02:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-3-22**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 81 (68 - 89) bpm
   BP: 98/39(53) {87/25(41) - 161/71(90)} mmHg
   RR: 24 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,956 mL
                                                                    552 mL
   PO:
             TF:
   IVF:
                                                                  1,707 mL
                                                                    522 mL
   Blood products:
                                                                    639 mL
   Total out:
                                                                    795 mL
                                                                    215 mL
   Urine:
                                                                    795 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,161 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 499 (317 - 499) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.37/38/66/20/-2
   Ve: 11.9 L/min
   PaO2 / FiO2: 165
   Physical Examination
   GEN: Intubated and sedated
   HEENT: NC/AT.
   PULM: Bilateral inspiratory rhonchi, left greater than right. Decreased
   breath sounds right base.
   CVS: RRR with normal S1+S2
   ABD: Hypoactive BS, soft, non-distended.
   Ext: 2+ Pitting edema bilaterally to halfway up shin.
   Neurologic: sedated
   Labs / Radiology
   208 K/uL
   9.1 g/dL
   100 mg/dL
   1.5 mg/dL
   20 mEq/L
   3.6 mEq/L
   58 mg/dL
   117 mEq/L
   145 mEq/L
   28.4 %
   10.6 K/uL
        [image002.jpg]
                             [**2190-3-20**]  05:30 PM
                             [**2190-3-20**]  08:56 PM
                             [**2190-3-20**]  10:15 PM
                             [**2190-3-20**]  10:41 PM
                             [**2190-3-21**]  02:28 AM
                             [**2190-3-21**]  12:40 PM
                             [**2190-3-21**]  03:50 PM
                             [**2190-3-21**]  05:50 PM
                             [**2190-3-21**]  11:19 PM
                             [**2190-3-22**]  02:24 AM
   WBC
   11.4
   10.6
   Hct
   26.1
   24.3
   26.5
   26.7
   28.1
   28.4
   Plt
   255
   208
   Cr
   1.4
   1.4
   1.5
   1.5
   TropT
   1.38
   1.39
   1.28
   1.26
   1.28
   TCO2
   18
   20
   23
   Glucose
   135
   92
   111
   100
   Other labs: PT / PTT / INR:20.0/36.6/1.8, CK / CKMB /
   Troponin-T:132/22/1.28, Differential-Neuts:84.3 %, Lymph:10.4 %,
   Mono:3.5 %, Eos:1.7 %, Lactic Acid:1.7 mmol/L, Ca++:7.9 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   CT Abdomen/Pelvis without Contrast:
   1. No definite evidence of retroperitoneal bleeding.
   2. Hyperdense fluid within the sigmoid colon. Correlation with
   Hemoccult is
   recommended to exclude blood within the colon. Alternately, this may
   represent oral contrast. Correlation with clinical history is
   recommended.
   3. Large bilateral pleural effusions, slightly increased when compared
   to
   prior exam.
   4. Vascular calcifications.
   5. Diffuse anasarca.
   Assessment and Plan
   78 y/o M with multiple medical problems including healthcare associated
   pneumonia, chronic aspiration, afib on coumadin, CVAs, and CAD who
   presents with hypoxia, consistent with pulmonary edema.
   # Acute hypercarbic respiratory failure: CXR with increased volume and
   patient did not improve with Bipap in the ED. Now intubated with
   improved ventilation on ABG. BNP greater than assay is markedly
   consistent with CHF. Put out well in the ED. Anticoagulated, so PE
   seems less likely. Mucous plugging seems like a likely component as
   well. Worsening leukocytosis and fever concerning for possible
   resistant organism. CXR today with worsening infiltrates.
   - Continue Ventilation now and talk with family about possible
   extubation (family meeting scheduled for Tuesday)
   - Pressure support trial on 0/0
   - Continuing [**Last Name (un) 350**]/Vanco/Flagyl
   - Repeat TTE
   # Hypotension:  pt. intermittently hypotensive with diuresis, continues
   on levophed
   - consider CVL
   - attempt to wean pressor
   # Pneumonia: Initially the pt was on vanc/pip-tazo for HCAP on
   admission on [**3-11**]. Piperacillin-tazobactam was changed to cefepime on
   [**3-13**]. Metronidazole was added on [**3-13**] due to persistent fevers.
   - broaden as above
   - check vancomycin trough prior to PM dose
   - follow cultures
   - repeat sputum
   # Hypernatremia: [**Month (only) 8**] be do to poor po intake, but patient total body
   overloaded. 2.5 L deficit at this time. Do not want to fluid bolus
   given CHF as above. Na 145 this AM.  FWD about 2L
   - Continue FW flushes through tube 250cc x4
   # NSTEMI: Troponin elevated but flat CK, could be consistent with
   resolving infarct on last admission. EKG with signs of demand in
   lateral leads.  Troponin now trending down
   - cycle enzymes to peak
   - asa 325 mg daily
   - high dose statin
   - d/c beta blocker
   - hold ace-i in setting of acute CHF
   # Afib: Sinus tachycardia has resolved, was previously in Afib in ED.
   Pt has been on anticoagulation for afib but Hct trending down. Concern
   for RP bleed but nothing on imaging.
   - hold coumadin for now, consider restarting in the near future
   - Rate control as above
   - Repeat EKG this morning
   # Anemia: HCT appears stable after transfusion of 1 unit pRBCs.
   - continue PPI
   - T and S
   - Maintain 2 PIVs , PICC
   # Dm: ISS
   # Dementia: Continue mirtazapine
   # FEN: Gentle D5  IVF, replete electrolytes, NPO for now
   # Prophylaxis: restart coumadin, PPI
   # Access: peripheral
   PICC Line - [**2190-3-20**] 01:45 PM
   18 Gauge - [**2190-3-20**] 01:45 PM
   # Communication: has two daughters and son; [**Doctor Last Name **] is HCP, work
   no: [**Telephone/Fax (1) 12228**]. Email: [**Company 12171**]. [**Doctor First Name 792**], daughter
   [**Telephone/Fax (1) 12035**].
   # Code:  Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
   I
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2190-3-20**] 01:45 PM
   18 Gauge - [**2190-3-20**] 01:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-03-23 07:11:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
   [**2190-3-22**]
   Patient off of vasopressors. Attempting gentle diuresis with lasix
   boluses. Got 40mg IV x3 with reasonable response.
   Plan for family meeting today at [**First Name4 (NamePattern1) 2044**] [**Last Name (NamePattern1) **].
   Opens eyes and follows commands; otherwise non-verbal. No apparent
   distress/pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2190-3-20**] 03:14 PM
   Vancomycin - [**2190-3-22**] 08:57 PM
   Metronidazole - [**2190-3-23**] 01:15 AM
   Meropenem - [**2190-3-23**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2190-3-22**] 08:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-3-23**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 96 (72 - 103) bpm
   BP: 129/69(83) {94/28(46) - 142/99(102)} mmHg
   RR: 26 (0 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,958 mL
                                                                    506 mL
   PO:
             TF:
             141 mL
   IVF:
                                                                  1,453 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                    925 mL
                                                                    485 mL
   Urine:
                                                                    925 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,033 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 426 (300 - 426) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 9.3 L/min
   Physical Examination
   General: Patient opens eyes and orients to voice; no apparent distress;
   follows commands to open eyes, squeeze hands
   HEENT: Intubated
   CV: Regular rate/rhythm, nl s1 s2
   Lungs: Soft diffuse rhonchi, crackles at left base
   Abdomen: Soft, no apparent tenderness to palpation, +NABS
   Extremities: Toes of left foot amputated, great toe of right foot
   amputated. Significant edema in feet prevents palpation of DP pulses,
   but feet appear warm/well-perfused.
   Skin: Sacral lesion noted by nursing not examined at this time
   Labs / Radiology
   227 K/uL
   9.5 g/dL
   92 mg/dL
   1.6 mg/dL
   18 mEq/L
   3.4 mEq/L
   57 mg/dL
   114 mEq/L
   141 mEq/L
   29.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2190-3-20**]  10:15 PM
                             [**2190-3-20**]  10:41 PM
                             [**2190-3-21**]  02:28 AM
                             [**2190-3-21**]  12:40 PM
                             [**2190-3-21**]  03:50 PM
                             [**2190-3-21**]  05:50 PM
                             [**2190-3-21**]  11:19 PM
                             [**2190-3-22**]  02:24 AM
                             [**2190-3-22**]  03:16 PM
                             [**2190-3-23**]  05:46 AM
   WBC
   11.4
   10.6
   8.8
   10.3
   Hct
   24.3
   26.5
   26.7
   28.1
   28.4
   29.0
   29.7
   Plt
   255
   208
   186
   227
   Cr
   1.4
   1.5
   1.5
   1.5
   1.6
   TropT
   1.39
   1.28
   1.26
   1.28
   TCO2
   20
   23
   Glucose
   92
   111
   100
   87
   92
   Other labs: PT / PTT / INR:18.3/36.9/1.7, CK / CKMB /
   Troponin-T:132/22/1.28, Differential-Neuts:84.3 %, Lymph:10.4 %,
   Mono:3.5 %, Eos:1.7 %, Lactic Acid:1.7 mmol/L, Ca++:7.7 mg/dL, Mg++:1.9
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   78 y/o M with multiple medical problems including healthcare associated
   pneumonia, chronic aspiration, afib on coumadin, CVAs, and CAD who
   presents with hypoxia, consistent with pulmonary edema.
   # Acute hypercarbic respiratory failure: CXR with increased volume and
   patient did not improve with Bipap in the ED. Now intubated with
   improved ventilation on ABG. BNP greater than assay is markedly
   consistent with CHF. Put out well in the ED. Anticoagulated, so PE
   seems less likely. Mucous plugging seems like a likely component as
   well. Initial worsening of leukocytosis and fever concerning for
   possible resistant organism. CXR today with worsening infiltrates.
   - Continue Ventilation now and talk with family about possible
   extubation (family meeting scheduled for Today)
   - Pressure support trial on 5/0
   - Continuing [**Last Name (un) 350**]/Vanco/Flagyl
   # Hypotension:  Pt normotensive now off of vasopressors for 24 hours.
   - continue to monitor; if becomes hypotensive will attempt gentle
   boluses followed by levophed
   # Pneumonia: Initially the pt was on vanc/pip-tazo for HCAP on
   admission on [**3-11**]. Piperacillin-tazobactam was changed to cefepime on
   [**3-13**]. Metronidazole was added on [**3-13**] due to persistent fevers.
   - Continue antibiotics as above (last day Sunday [**3-28**])
   - follow cultures (NGTD)
   - change vancomycin to 1gm q 24 hours
   - repeat sputum
   - will complete 8 day course of Meropenem (last dose Sunday, [**2190-3-28**])
   # Fluid Overload
  patient with total body overload.
   - check PM lytes, replete electrolytes as needed
   - Lasix drip
   # Hypernatremia: [**Month (only) 8**] be do to poor po intake, but patient total body
   overloaded. 2.5 L deficit at this time. Do not want to fluid bolus
   given CHF as above. Na continues to improve this morning at 141.
   - Continue FW flushes through tube 200cc x Q6h
   # NSTEMI: Troponin elevated but flat CK, could be consistent with
   resolving infarct on last admission. EKG with signs of demand in
   lateral leads.  Troponin not re-checked today.
   - asa 325 mg daily
   - high dose statin
   - d/c beta blocker
   - hold ace-i in setting of acute CHF
   # Afib: Sinus tachycardia has resolved, was previously in Afib in ED.
   Pt has been on anticoagulation for afib but Hct trending down. Concern
   for RP bleed but nothing on imaging.
   - continue to hold Coumadin, but consider low dose in near future
   - Rate control as above
   - Repeat EKG this morning
   # Anemia: HCT appears stable after transfusion of 1 unit pRBCs.
   - continue PPI
   - T and S
   - Maintain 2 PIVs , PICC
   # Dm: ISS
   # Dementia: Continue mirtazapine
   # FEN: IV boluses as needed, replete electrolytes, TF
   # Prophylaxis: pneumoboots, PPI, SQ heparin
   # Access: peripheral
   PICC Line - [**2190-3-20**] 01:45 PM
   18 Gauge - [**2190-3-20**] 01:45 PM
   # Communication: has two daughters and son; [**Doctor Last Name **] is HCP, work
   no: [**Telephone/Fax (1) 12228**]. Email: [**Company 12171**]. [**Doctor First Name 792**], daughter
   [**Telephone/Fax (1) 12035**].
   # Code:  Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-3-23**] 01:16 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-3-20**] 01:45 PM
   18 Gauge - [**2190-3-20**] 01:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: